US05116829
21-[2-(t-butoxycarbonylamino)-4-methylthio-1-oxobutylthio]-9-fluoro-11β,17 -dihydroxy-16β-methylpregna-1,4-diene-3,20-dione (Compound No. 10)
The title compound (1.50 gm) was prepared from 1.20 gm of 9-fluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol and 2.20 gm of N-(t-butoxycarbonyl)-L-methionine in the same manner as in Synthetic Example 1.

reactant | 9-fluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol | 1.20 gm | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@@H]([C@](C(CS)=O)([C@]1(C[C@@H]2O)C)O)C)=O)C | C22H29FO4S
reactant | N-(t-butoxycarbonyl)-L-methionine | 2.20 gm | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)O | C10H19NO4S
product | 21-[2-(t-butoxycarbonylamino)-4-methylthio-1-oxobutylthio]-9-fluoro-11β,17 -dihydroxy-16β-methylpregna-1,4-diene-3,20-dione | 1.50 gm | C(C)(C)(C)OC(=O)NC(C(SCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)O)=O)=O)CCSC | C32H46FNO7S2
